US05536816
2.5 g (10.5 mmol) of histidine methyl ester dihydrochloride, 10 ml of acetonitrile and 2.9 ml (148 mmol) of triethylamine were stirred at 20° for 20 hours. 3.8 g (10 mmol) of (S)-α[[[1-(morpholinocarbonyl)-1-methylethyl]sulphonyl]methyl]hydrocinnamic acid, 0.11 g (1 mmol) of 1-hydroxy-2(1H)-pyridone and 20 ml of ethyl acetate were subsequently added. After 15 minutes a solution of 2.2 g (10.5 mmol) of dicyclohexylcarbodiimide in 15 ml of ethyl acetate was added within 30 minutes. The reaction had finished after stirring at 20° for 18 hours. The solid (dicyclohexylurea) was filtered off under suction and the filtrate was washed with aqueous sodium bicarbonate solution and water. 5.4 g of N-[(S)-α-[[[1-methyl-1-(morpholinocarbonyl)ethyl]sulphonyl]methyl]hydrocinnamoyl]-L-histidine methyl ester were obtained.

reactant | histidine methyl ester dihydrochloride | 10.5 mmol, 2.5 g | Cl.Cl.COC([C@@H](N)CC1=CNC=N1)=O
reactant | triethylamine | 148 mmol, 2.9 ml | C(C)N(CC)CC | C6H15N
reactant | (S)-α[[[1-(morpholinocarbonyl)-1-methylethyl]sulphonyl]methyl]hydrocinnamic acid | 10 mmol, 3.8 g | O1CCN(CC1)C(=O)C(C)(C)S(=O)(=O)C[C@H](C(=O)O)CC1=CC=CC=C1 | C18H25NO6S
reactant | dicyclohexylcarbodiimide | 10.5 mmol, 2.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
catalyst | 1-hydroxy-2(1H)-pyridone | 1 mmol, 0.11 g | ON1C(C=CC=C1)=O | C5H5NO2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-[(S)-α-[[[1-methyl-1-(morpholinocarbonyl)ethyl]sulphonyl]methyl]hydrocinnamoyl]-L-histidine methyl ester | 5.4 g | COC([C@@H](NC([C@H](CC1=CC=CC=C1)CS(=O)(=O)C(C)(C(=O)N1CCOCC1)C)=O)CC1=CNC=N1)=O | C25H34N4O7S
